US08703103B2
Synthesis of 4-hydroxy-2,2,5,5-tetramethyl-3-hexanone
5 g (0.125 mol) of sodium hydroxide powder was added to 11.6 g (0.05 mol) of 4-Bromo-2,2,5,5-tetramethyl-3-hexanone in 10 g of dry diethylformamide. This reaction mixture was heated to 110° C. for 2 hours, cooled to room temperature and 600 mL of water and 200 mL of hexanes added. The hexane layer was collected and the aqueous layer was washed three times with 50 ml of additional hexanes. The hexanes fractions were then combined, washed three times with 50 ml water, then dried with MgSO4. The product was collected as a crystalline solid after hexanes removal by atmospheric distillation.

reactant | sodium hydroxide | 0.125 mol, 5 g | [OH-].[Na+]
reactant | 4-Bromo-2,2,5,5-tetramethyl-3-hexanone | 0.05 mol, 11.6 g | BrC(C(C(C)(C)C)=O)C(C)(C)C | C10H19BrO
reactant | water | 600 mL | O | H2O
solvent | diethylformamide | 10 g | C(C)N(C=O)CC | C5H11NO
product | 4-hydroxy-2,2,5,5-tetramethyl-3-hexanone | OC(C(C(C)(C)C)=O)C(C)(C)C | C10H20O2
